US04767766
Step B: Preparation of Methyl 4-benzylthionicotinate
A suspension of 2.45 g (0.01 mole) of 4-benzylthionicotinic acid in 35 mL of dry acetonitrile was treated with 1.52 g (0.01 mole) of 1,8-diazabicyclo[5,4,0]under-7-ene (DBU). 1.7 g (0.01 mole) of methyl iodide was added and stirring was continued for 7 hours. The reaction was carefully diluted with water to crystallize 430 mg of methyl 4-benzylthionicotinate which melted at 98°-99° C.

reactant | 4-benzylthionicotinic acid | 0.01 mole, 2.45 g | C(C1=CC=CC=C1)C1=CC=NC=C1C(=S)O | C13H11NOS
reactant | methyl iodide | 0.01 mole, 1.7 g | CI | CH3I
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | Methyl 4-benzylthionicotinate | C(C1=CC=CC=C1)C1=CC=NC=C1C(=S)OC | C14H13NOS
